US04782050
1. 1,2-dimethyl-5,6-difluorobenzimidazole
Using the alkylation procedure of Preparation A-2, 3.6 g of 2-methyl-5,6-difluorobenzimidazole, 1.03 g of 50% sodium hydride and 1.33 ml of methyl iodide in 40 ml of dimethylformamide gave 1.1 g of the desired product as an orange solid.

reactant | 2-methyl-5,6-difluorobenzimidazole | 3.6 g | CC=1NC2=C(N1)C=C(C(=C2)F)F | C8H6F2N2
reactant | sodium hydride | 1.03 g | [H-].[Na+]
reactant | methyl iodide | 1.33 ml | CI | CH3I
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1,2-dimethyl-5,6-difluorobenzimidazole | 1.1 g | CN1C(=NC2=C1C=C(C(=C2)F)F)C | C9H8F2N2
